US04725680
Preparation of tert-butyloxycarbonylpiperidine
The procedure is as in Example 7, but with 8.5 g (0.1 mole) of piperidine, 60 ml of THF, 20 ml of saturated aqueous K2CO3 solution and 0.11 mole of α-chloroethyl tert-butyl carbonate.

reactant | piperidine | 0.1 mole, 8.5 g | N1CCCCC1 | C5H11N
reactant | K2CO3 | 20 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | α-chloroethyl tert-butyl carbonate | 0.11 mole | C(OC(C)Cl)(OC(C)(C)C)=O | C7H13ClO3
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | tert-butyloxycarbonylpiperidine | C(C)(C)(C)OC(=O)N1CCCCC1 | C10H19NO2
